datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccnc([N:21](S(=O)(=O)c2ccc(Cl)cc2)[H:20])n1.[NH3+][C@H]1CC(=O)N(CCCC[C@H]([NH3+])C(=O)[O-:10])C1=O>>Cc1ccnc([N-:21]S(=O)(=O)c2ccc(Cl)cc2)n1.[NH3+][C@H]1CC(=O)N(CCCC[C@H]([NH3+])C(=O)[O:10][H:20])C1=O 10=20;20,21=21",
"COC(=O)c1cc(O)c(O)c([O-:10])c1C[NH+](C)C.CSc1nccc(C)[n+:21]1[H:20]>>COC(=O)c1cc(O)c(O)c([O:10][H:20])c1C[NH+](C)C.CSc1nccc(C)[n:21]1 10=20;20,21=21",
"O=C([O-])CCC#CC#CCCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CCC#CC#CCCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.Oc1ccccc1C[NH:10]C1CCCCC1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.Oc1ccccc1C[NH+:10](C1CCCCC1)[H:20] 10=20;20,21=21",
"CC(C)C(=O)[O-:10].O=C([O-])c1ccc2sc(Cn3cc[n+:21]([H:20])c3)cc2c1>>CC(C)C(=O)[O:10][H:20].O=C([O-])c1ccc2sc(Cn3cc[n:21]c3)cc2c1 10=20;20,21=21",
"CCC(=O)c1cc(C(=O)C(C)(C)C)n[n:21]1[H:20].S=C(c1ccc(Cl)cc1)[N-:10]c1ccc(Cl)c(Cl)c1>>CCC(=O)c1cc(C(=O)C(C)(C)C)n[n-:21]1.S=C(c1ccc(Cl)cc1)[N:10](c1ccc(Cl)c(Cl)c1)[H:20] 10=20;20,21=21",
"C1C[NH:10]CCN1.CCCCC[N+:21](CC(C)O)(CC(O)CC)[H:20]>>C1C[NH+:10]([H:20])CCN1.CCCCC[N:21](CC(C)O)CC(O)CC 10=20;20,21=21",
"CC(O)(c1ccccc1)C(C(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1.N#CC(CCCC(=O)[O-:10])c1ccccc1>>CC(O)(c1ccccc1)C(C(=O)[O-:21])c1ccc(-c2ccccc2)cc1.N#CC(CCCC(=O)[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CCOCC(=O)[O:21][H:20].Oc1nc2nc[nH]c2c([O-:10])[nH+]1>>CCOCC(=O)[O-:21].Oc1nc2nc[nH]c2c([O:10][H:20])[nH+]1 10=20;20,21=21",
"C[NH:10]CCc1ccc(O)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10](CCc1ccc(O)cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C=Cc1ccc(C)[n:10]c1.Cc1ccc([NH2+:21][H:20])c(N)c1>>C=Cc1ccc(C)[n+:10]([H:20])c1.Cc1ccc([NH2:21])c(N)c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC[N:10](CCO)c1ccc(N)cc1.O=C(CSc1ccccc1[N+](=O)[O-])[O:21][H:20]>>CC[N+:10](CCO)(c1ccc(N)cc1)[H:20].O=C(CSc1ccccc1[N+](=O)[O-])[O-:21] 10=20;20,21=21",
"O=S(=O)([O-])CCC[N+:21]1([H:20])CCOCC1.c1cncc(C[NH2:10])c1>>O=S(=O)([O-])CCC[N:21]1CCOCC1.c1cncc(C[NH2+:10][H:20])c1 10=20;20,21=21",
"COc1cnc[nH+]c1[O-:10].Cc1ccc([Se]CC(=O)[O:21][H:20])cc1>>COc1cnc[nH+]c1[O:10][H:20].Cc1ccc([Se]CC(=O)[O-:21])cc1 10=20;20,21=21",
"O=C(C1CC1(Br)Br)[O:21][H:20].O=C([O-])C[NH+](CC[N-:10]S(=O)(=O)c1ccccc1)CC(=O)[O-]>>O=C(C1CC1(Br)Br)[O-:21].O=C([O-])C[NH+](CC[N:10](S(=O)(=O)c1ccccc1)[H:20])CC(=O)[O-] 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)c1ccc([N+](=O)[O-])cc1[n:10]2.COc1ccc(CC[NH2+:21][H:20])cc1>>CCOc1ccc2c(c1)c(N)c1ccc([N+](=O)[O-])cc1[n+:10]2[H:20].COc1ccc(CC[NH2:21])cc1 10=20;20,21=21",
"CCOP(=O)(C[N:10]1CCOCC1)OCC.CC[N+:21](CC#N)(CC#N)[H:20]>>CCOP(=O)(C[N+:10]1([H:20])CCOCC1)OCC.CC[N:21](CC#N)CC#N 10=20;20,21=21",
"Cc1ccc([S:21][H:20])cc1.NCCC[NH2+]CCCC[NH2:10]>>Cc1ccc([S-:21])cc1.NCCC[NH2+]CCCC[NH2+:10][H:20] 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)C=C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C=CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CN(C)c1ncnc2c1cn[n-:10]2.COc1cnc[n+:21]([H:20])c1[O-]>>CN(C)c1ncnc2c1cn[n:10]2[H:20].COc1cnc[n:21]c1[O-] 10=20;20,21=21",
"Cc1cc([NH3+])ccc1-c1ccc([NH2+:21][H:20])cc1C.O=C([O-])c1cccc2ccc([O-:10])cc12>>Cc1cc([NH3+])ccc1-c1ccc([NH2:21])cc1C.O=C([O-])c1cccc2ccc([O:10][H:20])cc12 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c2c1C(=O)NC(=O)N2.O=[N+]([O-])c1cc(C[N:10]2CCCCC2)c([O-])c2ccccc12>>Cn1c[n:21]c2c1C(=O)NC(=O)N2.O=[N+]([O-])c1cc(C[N+:10]2([H:20])CCCCC2)c([O-])c2ccccc12 10=20;20,21=21",
"C[N+:21](CCO)(CCCl)[H:20].Cc1ccc([N-:10]C=S)cc1>>C[N:21](CCO)CCCl.Cc1ccc([N:10](C=S)[H:20])cc1 10=20;20,21=21",
"CC[N+:21](CC#N)(CC#N)[H:20].CN(C)C(=O)n1nc(C(C)(C)C)nc1SCC(=O)[O-:10]>>CC[N:21](CC#N)CC#N.CN(C)C(=O)n1nc(C(C)(C)C)nc1SCC(=O)[O:10][H:20] 10=20;20,21=21",
"BrCCCC[NH2:10].CCOCCn1c(CN2CCC[N+:21](CCCCn3cccn3)([H:20])CC2)nc2ccccc21>>BrCCCC[NH2+:10][H:20].CCOCCn1c(CN2CCC[N:21](CCCCn3cccn3)CC2)nc2ccccc21 10=20;20,21=21",
"CC(=O)N1CCCC1C(=O)[O-:10].Fc1cc(F)c(F)c([S:21][H:20])c1F>>CC(=O)N1CCCC1C(=O)[O:10][H:20].Fc1cc(F)c(F)c([S-:21])c1F 10=20;20,21=21",
"COc1ccc(-c2[nH]c3cccnc3[n:10]2)c(OC)c1.COc1ccc2nccc(C(O)C3CCCC[NH+:21]3[H:20])c2c1>>COc1ccc(-c2[nH]c3cccnc3[n+:10]2[H:20])c(OC)c1.COc1ccc2nccc(C(O)C3CCCC[NH:21]3)c2c1 10=20;20,21=21",
"C[C@@]12CC(=O)N[C@]1(CCC(=O)[O-])C(=O)[N:21]([H:20])C2=O.C[Si](C)(C)OC1C[N:10](Cc2ccc(Cl)cc2)C1>>C[C@@]12CC(=O)N[C@]1(CCC(=O)[O-])C(=O)[N-:21]C2=O.C[Si](C)(C)OC1C[N+:10](Cc2ccc(Cl)cc2)([H:20])C1 10=20;20,21=21",
"O=C(C1=CN=CC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20].OCC[O-:10]>>O=C(C1=CN=CC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1.OCC[O:10][H:20] 10=20;20,21=21",
"CC1CCCC(C(=O)[O-])[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1CCCC(C(=O)[O-])[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
